US05256330
Rel-(S)-γ-(4-heptyloxyphenyl)-γ-butyrolactone (3.0 g) and anhydrous tetrahydrofuran (50 ml) were placed in a 200 ml three-necked flask, followed by cooling the mixture down to -65° C. with stirring, dropwise adding a tetrahydrofuran solution of lithium diisopropylamide (21.8 mmol) (hereinafter abbreviated to LDA) over 30 minutes, cooling down to -65° C. with stirring for one hour, dropwise adding a mixed solution of hexylbromide (2.71 g), hexamethylphosphoric triamide (hereinafter abbreviated to HMPA) (2.93 g) and anhydrous tetrahydrofuran (5 ml) over 20 minutes, gradually raising the temperature, agitating the mixture at room temperature overnight, adding ice water (50 ml) and toluene (200 ml), washing the resulting organic layer with 2N-hydrochloric acid, saturated NaHCOs aqueous solution and saturated NaCl aqueous solution in this order, drying the organic layer over anhydrous magnesium sulfate, removing magnesium sulfate, concentrating the organic layer under reduced pressure, separation-purifying according to chromatography and recrystallizing from ethanol, to obtain rel-(αS,γS)-α-hexyl-γ-(4-heptyloxyphenyl)-γ-butyrolactone (cis-form) (0.05 g). m.p.: 74.8°-75.8° C.

reactant | Rel-(S)-γ-(4-heptyloxyphenyl)-γ-butyrolactone | 3.0 g | C(CCCCCC)OC1=CC=C(C=C1)[C@@H]1CCC(=O)O1 | C17H24O3
reactant | lithium diisopropylamide | 21.8 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | hexylbromide | 2.71 g | C(CCCCC)Br | C6H13Br
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | hexamethylphosphoric triamide | 2.93 g | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | rel-(αS,γS)-α-hexyl-γ-(4-heptyloxyphenyl)-γ-butyrolactone | 0.05 g | C(CCCCC)[C@@H]1C(=O)O[C@@H](C1)C1=CC=C(C=C1)OCCCCCCC | C23H36O3
